US07465731B2
To a solution of tert-butyl [(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]carbamate (739 mg) in ethyl acetate (3.7 mL) was added 4N HCl-ethyl acetate (6.0 mL), which was stirred at room temperature for 1.5 hours. The mixture was concentrated to give (3R)-1-(3-methoxybenzyl)-3-pyrrolidinamine dihydrochloride (702 mg) as a off-white amorphous.

reactant | tert-butyl [(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]carbamate | 739 mg | COC=1C=C(CN2C[C@@H](CC2)NC(OC(C)(C)C)=O)C=CC1 | C17H26N2O3
reactant | HCl ethyl acetate | 4N, 6.0 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 3.7 mL | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(3-methoxybenzyl)-3-pyrrolidinamine dihydrochloride | 702 mg | Cl.Cl.COC=1C=C(CN2C[C@@H](CC2)N)C=CC1 | InChI=1S/C12H18N2O.2ClH/c1-15-12-4-2-3-10(7-12)8-14-6-5-11(13)9-14;;/h2-4,7,11H,5-6,8-9,13H2,1H3;2*1H/t11-;;/m1../s1
